Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],1.27406199
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.52680747532
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.28903231422
[H:10].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.88711967542
[C:7]([H:8])([C:9])([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.33800833663
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6],1.88258431285
[H:1][C:2]#[C:3][C:4][C:5]([H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.7370167737400002
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.97653905621
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.61160092515
[C:5]([H:6])[H:7].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],-3.52362918881
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][O:7][C:8]1([H:9])[H:10]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:8]([O:7][O:6])([H:9])[H:10],0.0328773381998
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:12][H:13].[C:7]([H:8])=[C:9]([H:10])[H:11],1.37040457741
[H:1][O:2][C:3][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.59714710788
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6],2.0495160874
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-0.59217526909
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.77121031124
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.30593467
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3],7.0605494798500015
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:7][H:8],5.28381686145
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.99085380137
[C:4]([H:5])[C:6]([H:7])=[C:8][H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])=[C:8][H:9],-6.5786718546700005
[H:1][O:2][C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]=[C:4]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:5][H:6],4.0190118716
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.7015068690699993
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.7342210769599995
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.05052078678
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1],7.03177401296
[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]1[C:5][C:6]1([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.5256405121
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],3.943046028
